US07220775B2
2-(4-BENZYL-1-PIPERAZINYL)-N4-(3-METHOXYPHENYL)-N6,N6-DIMETHYL-4,6-PYRIMIDINEDIAMINE
A mixture of N4-(3-methoxyphenyl)-N6,N6-dimethyl-2-(1-piperazinyl)-4,6-pyrimidinediamine (36 mg, 0.10 mmol) and benzaldehyde (11 mg, 0.1 mmol) in a solution of methanol (5 mL) and acetic acid (0.5 mL) was stirred at room temperature for 1 h. Sodium cyanoborohydride (7 mg, 0.1 mmol) was added to the above solution and stirred at room temperature for 16 h. The crude product was treated with saturated NaHCO3 (50 mL) and extracted with EtOAC (3×50 mL). The organic layer was washed with brine (2×50 mL), dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by chromatography on silica using hexane/EtOAc (1:3), giving the desired product (8 mg, 40%).

reactant | N4-(3-methoxyphenyl)-N6,N6-dimethyl-2-(1-piperazinyl)-4,6-pyrimidinediamine | 0.10 mmol, 36 mg | COC=1C=C(C=CC1)NC1=NC(=NC(=C1)N(C)C)N1CCNCC1 | C17H24N6O
reactant | benzaldehyde | 0.1 mmol, 11 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | Sodium cyanoborohydride | 0.1 mmol, 7 mg | C(#N)[BH3-].[Na+]
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 5 mL | CO | CH4O
product | 2-(4-BENZYL-1-PIPERAZINYL)-N4-(3-METHOXYPHENYL)-N6,N6-DIMETHYL-4,6-PYRIMIDINEDIAMINE | 8 mg, 40% | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC(=CC(=N1)NC1=CC(=CC=C1)OC)N(C)C | C24H30N6O
